US06329380B1
Step C: 3-(1-Azidoethyl)-1-(benzyloxycarbonyl)piperidine
To a solution of 1-(benzyloxycarbonyl)-3-(1-hydroxyethyl)piperidine (510 mg, 1.94 mmol) in methylene chloride (5 mL) at 0° C. was added diisopropylethylamine (507 μL, 2.91 mmol) followed by methanesulfonyl chloride (180 μL, 2.33 mmol). After stirring 10 min at 0° C., the ice bath was removed and the mixture stirred at room temperature for 30 min The reaction mixture was diluted with EtOAc then was washed with saturated aqueous NaHCO3, 1N HCl, saturated aqueous NaHCO3 and brine, respectively. The organic extract was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was dissolved in DMF (5 mL), and to this was added sodium azide (190 mg, 2.91 mmol). The mixture was heated at 100° C. for 2 h. After cooling to room temperature, the reaction mixture was diluted with EtOAc and washed with H2O (3×20 mL) followed by brine. The organic layer was dried over Na2SO4. The crude material was purified by flash chromatography using 1:15 EtOAc:hexane system to obtain 442 mg of the title compound. Partial 1H NMR (500 MHz, CDCl3): δ 7.34 (m, 5H); 5.12 (br s, 2H); 3.38 (m, 1H); 1.3 (br s, 3H). Mass spectrum 289.4 (ESI, M+1).

reactant | 1-(benzyloxycarbonyl)-3-(1-hydroxyethyl)piperidine | 1.94 mmol, 510 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(C)O | C15H21NO3
reactant | diisopropylethylamine | 2.91 mmol, 507 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.33 mmol, 180 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 2.91 mmol, 190 mg | [N-]=[N+]=[N-].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(1-Azidoethyl)-1-(benzyloxycarbonyl)piperidine | 442 mg | N(=[N+]=[N-])C(C)C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C15H20N4O2
